US04511731
A mixture of 20 g p-isopropenylphenol, 1.1 equivalents ethylene carbonate, 0.02 equivalent potassium fluoride dihydrate, and 200 ml N,N-dimethylformamide (DMF) was heated at about 150° C. for about 1.5 hours. After removal of DMF under reduced pressure, the crude product was distilled. 2-(4-(1-Methylethenyl)phenoxy)ethanol, bp 143° C./7 torr, was obtained as a white solid in 69% yield.

reactant | p-isopropenylphenol | 20 g | C(=C)(C)C1=CC=C(C=C1)O | C9H10O
reactant | ethylene carbonate | 1.1 equivalents | C1(OCCO1)=O | C3H4O3
reactant | potassium fluoride dihydrate | 0.02 equivalent | O.O.[F-].[K+]
solvent | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 2-(4-(1-Methylethenyl)phenoxy)ethanol | 69% yield | CC(=C)C1=CC=C(OCCO)C=C1 | C11H14O2
